US08183374B2
Step 1: 4-[2-(2-Fluoro-Phenoxy)-Ethyl]-Piperazine-1-Carboxylic Acid Tert-Butyl Ester (N)
To a solution of piperazine-1-carboxylic acid tert-butyl ester (2.79 g, 15 mmol) and 1-(2-bromoethoxy)-2-fluoro-benzene (3.28 g, 15 mmol) in DMF (6 mL) was added cesium carbonate (Cs2CO3, 9.75 g, 30 mmol). The mixture was stirred at room temperature for a day and then treated with water. The aqueous solution was extracted with ethyl acetate and the extract was washed with water and brine. The organic layer was concentrated and the residue was dried under the vacuum to yield the title compound quantitatively as an oil (5.1 g). 1H NMR (400 MHz, DMSO-d6): δ 1.39 (s, 9H), 2.44 (t, 4H), 2.73 (t, 2H), 3.29 (t, 4H), 4.45 (t, 2H), 6.93 (m, 1H), 7.11 (t, 1H), 7.18 (m, 2H).

reactant | piperazine-1-carboxylic acid tert-butyl ester | 15 mmol, 2.79 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 1-(2-bromoethoxy)-2-fluoro-benzene | 15 mmol, 3.28 g | BrCCOC1=C(C=CC=C1)F | C8H8BrFO
reactant | cesium carbonate | 30 mmol, 9.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-[2-(2-Fluoro-Phenoxy)-Ethyl]-Piperazine-1-Carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC1=C(C=CC=C1)F | C17H25FN2O3
